US04219490
Attempted Preparation of 1-Ferrocenyl-2-thioacetoxy Ethane Using Irradiation
In a typical experiment 2.12g (0.01 mol) of purified vinyl ferrocene and 0.76 (0.01 mol) of thioacetic acid were dissolved in 30 ml of GC spectrophotometric quality benzene and placed in a pyrex photoreactor fitted with a fritted purging tube and reflux condenser. The solution was purged 45 minutes with helium prior and during irradiation of 1.75×1019 photon/min. from a Hanovia 100 watt type SOL high pressure quartz mercury vapor lamp. No change in the infrared bands of the mercaptans (3.9μ) and vinyl groups (6.18μ) nor any product formation could be observed by thin layer chromatography during a photolysis time of up to eight hours. It was observed that photo-decomposition of vinyl ferrocene occurred (formation of dark brown precipitate) along with protection of thioacetic acid from the ultraviolet light.

reactant | vinyl ferrocene | 0.01 mol, 2.12g | C(=C)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | thioacetic acid | C(C)(=S)O | C2H4OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Ferrocenyl-2-thioacetoxy Ethane | [C-]1(C=CC=C1)CCOC(C)=S.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C9H11OS.C5H5.Fe/c1-8(11)10-7-6-9-4-2-3-5-9;1-2-4-5-3-1;/h2-5H,6-7H2,1H3;1-5H;/q2*-1;+2
